US05719141
Reaction of 1.08 g of 5-methoxycarbonyl-2-nitrophenol, 1.82 g of potassium carbonate and 2.02 g of iodoacetamide gives 2-carbamoylmethoxy-4-(methoxycarbonyl)nitrobenzene of mp 138°-9° C.; Rf (O)=0.63; FAB-MS: (M+H)+ 255; anal. calc. for C10H10N2O6 : C47.25%, H3.97%, N11.02%; found C47.08%, H4.04%, N10.79%. Starting from 1.16 g of 2-carbamoylmethoxy-4-(methoxycarbonyl)nitrobenzene, 2-carbamoylmethoxy-4-(methoxycarbonyl)aniline of mp 178°-80° C.; Rf (O)=0.37; MS: M+ =224; anal, calc. for C10H12 N2O4 : C53.57%, H5.39%, N12.49%; found C53.41%. H5.32%, N12.53%.

reactant | 5-methoxycarbonyl-2-nitrophenol | 1.08 g | COC(=O)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C8H7NO5
reactant | potassium carbonate | 1.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoacetamide | 2.02 g | ICC(=O)N | C2H4INO
product | 2-carbamoylmethoxy-4-(methoxycarbonyl)nitrobenzene | C(N)(=O)COC1=C(C=CC(=C1)C(=O)OC)[N+](=O)[O-] | C10H10N2O6
